US08648066B2
A solution of hydrogen chloride in dioxane (4 M, 2.09 mL, 8.3 mmol) was added to 1,1-dimethylethyl 7-[2-(ethylamino)-1H-benzimidazol-6-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (337 mg, 0.83 mmol) in methanol (4 mL). The mixture was heated to 60° C. and stirred for 1 h before cooling to rt. The volatile materials were removed to provide N-ethyl-5-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-benzimidazol-2-amine dihydrochloride in quantitative yield. 1H NMR (400 MHz, DMSO-d6) δ 12.85 (d, 2H), 9.48 (br s, 2H), 9.11-9.03 (m, 1H), 7.77 (d, 1H), 7.63 (dd, 1H), 7.55 (d, 1H), 7.52-7.42 (m, 2H), 7.19 (d, 1H), 4.42 (br s, 2H), 4.28-4.20 (m, 2H), 3.55-3.41 (m, 4H), 1.26 (t, 3H); MS (EI) for C18H20N4O: 309 (MH+).

reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 8.3 mmol, 4 M, 2.09 mL | O1CCOCC1 | C4H8O2
reactant | 1,1-dimethylethyl 7-[2-(ethylamino)-1H-benzimidazol-6-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.83 mmol, 337 mg | C(C)NC1=NC2=C(N1)C=C(C=C2)C=2C=CC1=C(CN(CCO1)C(=O)OC(C)(C)C)C2 | C23H28N4O3
solvent | methanol | 4 mL | CO | CH4O
product | N-ethyl-5-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-benzimidazol-2-amine dihydrochloride | quantitative yield | Cl.Cl.C(C)NC1=NC2=C(N1)C=CC(=C2)C=2C=CC1=C(CNCCO1)C2 | InChI=1S/C18H20N4O.2ClH/c1-2-20-18-21-15-5-3-13(10-16(15)22-18)12-4-6-17-14(9-12)11-19-7-8-23-17;;/h3-6,9-10,19H,2,7-8,11H2,1H3,(H2,20,21,22);2*1H
